US05670505
Cyclohexyl isocyanate (0.06 ml) was added to a stirred solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (0.2 g) in dichloromethane (10 ml) at room temperature. After stirring for 4 hours, dichloromethane (10 ml) and water (5 ml) were added. The organic layer was separated, washed with brine and dried over magnesium sulfate. After evaporation of the solvent in vacuo, the residue was purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (98:2) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-cyclohexylcarbamoyl-2-(1H-indol-3-yl-methyl)piperazine (0.18 g).

reactant | Cyclohexyl isocyanate | 0.06 ml | C1(CCCCC1)N=C=O | C7H11NO
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 0.2 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | water | 5 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-cyclohexylcarbamoyl-2-(1H-indol-3-yl-methyl)piperazine | 0.18 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C(NC2CCCCC2)=O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C29H30F6N4O2
